US07534829B2
(3) Synthesis and NMR Measurement of 1-isopropoxy-2-trifluoroacetoxy-butane
After introduction of 530 mg of 1-isopropoxy-2-butanol prepared above and 5 g of dichloromethane into a 20 ml eggplant type flask, 1.7 g of trifluoroacetic anhydride was added. After stirring at room temperature for one hour, the solvent was removed using a rotary evaporator. The resulting 1-isopropoxy-2-trifluoroacetoxy-butane was subjected to 500 MHz 1H-NMR measurement using, as a solvent, a mixed solvent of deuterated chloroform and trifluoroacetic anhydride (deuterated chloroform/trifluoroacetic anhydride=2/1 (weight ratio)). The NMR measurement chart obtained is shown in FIG. 4.

reactant | 1-isopropoxy-2-butanol | 530 mg | C(C)(C)OCC(CC)O | C7H16O2
reactant | trifluoroacetic anhydride | 1.7 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 5 g | ClCCl | CH2Cl2
product | 1-isopropoxy-2-trifluoroacetoxy-butane | C(C)(C)OCC(CC)OC(C(F)(F)F)=O | C9H15F3O3
